US03957780
A solution of 8.9 g (385 millimoles) of sodium in 400 ml of methanol is added dropwise, while stirring, to a suspension of 93.9 g (350 millimoles) of 2-(4-nitrophenyl)-4H-1,3-benzoxazin-4-one and 58.1 g (192.5 millimoles) of guanyl urea sulfate in 1 liter of methanol. Subsequently, the mixture is refluxed for 30 minutes. After cooling of the mixture, the precipitate formed is suction-filtered, washed with water and methanol and dried at 70°C in a vacuum drying oven. The yield is 61.9 g (50.2 % of the theoretical yield). The 4-ureido-2-(2-hydroxyphenyl)-6-(4-nitrophenyl)-s-triazine obtained is a powder having a light yellow color and a melting point of 249°C (decomposition).

reactant | sodium | 385 millimoles, 8.9 g | [Na] | Na
reactant | 2-(4-nitrophenyl)-4H-1,3-benzoxazin-4-one | 350 millimoles, 93.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H8N2O4
reactant | guanyl urea sulfate | 192.5 millimoles, 58.1 g | S(=O)(=O)(O)O.C(N)(=N)NC(=O)N
solvent | methanol | 400 ml | CO | CH4O
solvent | methanol | 1 liter | CO | CH4O
product | 4-ureido-2-(2-hydroxyphenyl)-6-(4-nitrophenyl)-s-triazine | N(C(=O)N)C1=NC(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)O | C16H12N6O4
